US05668137
A solution of sodium carbonate (2.86 g) in water (4 ml) was added to a soultion of 2-iodo- N-(isobutoxycarbonyl)- N-(3-methoxy-5-methylpyrazin-2-yl)benzenesulphonamide (6.2 g), (2-carboxy-2-methylpropyl)benzeneboronic acid (3.0 g) and tetrakis(triphenylphosphine)palladium(O) (235 mg) in toluene (30 ml) and ethanol (20 ml). The mixture was stirred vigorously and heated under reflux for 18 hours under an atmosphere of argon. Water (100 ml) and ethyl acetate (100 ml) were added and the organic layer was separated. The organic phase was extracted with saturated sodium bicarbonate solution (50 ml) and the aqueous phases were combined. The solution was acidifed with 6M hydrochloric acid and extracted with ethyl acetate (3×50 ml). The extracts were washed with water (50 ml) and saturated sodium chloride solution (50 ml) and then dried (MgSO4). Volatile material was removed by evaporation and the residue was triturated with etherexane (1:1 v/v) to give 4'-(2-carboxy-2-methylpropyl)- N-(isobutoxycarbonyl)- N-(3-methoxy-5 -methylpyrazin-2-yl)-2-biphenylsulphonamide (2.25 g); 1H NMR (d6 -DMSO): 0.6 (d, 6H), 1.1 (s, 6H), 1.5-1.7 (m, 1H), 2.52 (s, 3H), 2.85 (s, 2H), 3.8 (d, 2H), 3.95 (s, 3H), 7.15 (d, 2H), 7.25 (d, 2H), 7.3-7.4 (m, 1H), 7.7-7.8 (m, 2H), 8.15 (s, 1H), 8.5-8.6 (m, 1H), 12.3 (s, 1H).

reactant | sodium carbonate | 2.86 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-iodo- N-(isobutoxycarbonyl)- N-(3-methoxy-5-methylpyrazin-2-yl)benzenesulphonamide | 6.2 g | IC1=C(C=CC=C1)S(=O)(=O)N(C1=NC=C(N=C1OC)C)C(=O)OCC(C)C | C17H20IN3O5S
reactant | (2-carboxy-2-methylpropyl)benzeneboronic acid | 3.0 g | C(=O)(O)C(CC1=C(C=CC=C1)B(O)O)(C)C | C11H15BO4
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 4 ml | O | H2O
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium(O) | 235 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
solvent | Water | 100 ml | O | H2O
product | 4'-(2-carboxy-2-methylpropyl)- N-(isobutoxycarbonyl)- N-(3-methoxy-5 -methylpyrazin-2-yl)-2-biphenylsulphonamide | 2.25 g | C(=O)(O)C(CC1=CC=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)N(C1=NC=C(N=C1OC)C)C(=O)OCC(C)C)(C)C | C28H33N3O7S
